US07842688B2
d) 6-Hydroxymethyl-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
A solution of 75.60 g of methyl 2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylate in 2700 ml of anhydrous tetrahydrofuran is cooled to −40° C. 858 ml of diisobutylaluminium hydride solution (1M in toluene) are added dropwise at −45-−40° C. The reaction mixture is subsequently stirred at −40° C. for a further 2 hours and finally warmed slowly to −20° C. The reaction mixture is poured onto 360 ml of 32% HCl. The phases are separated and the organic phase is washed with 1000 ml of 1M aqueous sodium potassium tartrate solution. The combined aqueous phases are re-extracted with 1000 ml of tetrahydrofuran and the combined organic phases are dried over sodium sulphate and concentrated by evaporation. The residue is taken up in 500 ml of tert-butyl methyl ether and the suspension is stirred at 45° C. over 1 hour. The title compound is obtained as a beige solid by filtration. Rt=2.69.

reactant | methyl 2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylate | 75.60 g | CC1(OC2=C(NC1=O)C=C(C=C2)C(=O)OC)C | C12H13NO4
reactant | diisobutylaluminium hydride | 1M, 858 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 360 ml | Cl | ClH
solvent | tetrahydrofuran | 2700 ml | O1CCCC1 | C4H8O
product | 6-Hydroxymethyl-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | OCC=1C=CC2=C(NC(C(O2)(C)C)=O)C1 | C11H13NO3
